US04385153
N,N'-di-phenyl-p-phenylenediamine
phenothiazine, 2-phenyl-benzimidazole

reactant | phenothiazine | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | 2-phenyl-benzimidazole | C1(=CC=CC=C1)C=1NC2=C(N1)C=CC=C2 | C13H10N2
product | N,N'-di-phenyl-p-phenylenediamine | C1(=CC=CC=C1)NC1=CC=C(C=C1)NC1=CC=CC=C1 | C18H16N2
